US04077795
Following the above procedure, two grams of 40% aqueous solution of methyl amine was reacted with 2.6 grams of 2,6-dinitro-4-t-butyl-chlorobenzene to give N-methyl-2,6-dinitro-4-t-butylaniline as orange needles melting at 129°-130° C.

reactant | methyl amine | CN | CH5N
reactant | 2,6-dinitro-4-t-butyl-chlorobenzene | 2.6 grams | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])Cl | C10H11ClN2O4
product | N-methyl-2,6-dinitro-4-t-butylaniline | CNC1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-] | C11H15N3O4
